### PR TITLE
FPU: return new flag state after invokeSetFlags

### PR DESCRIPTION
**Pull request by corlewis**
This modifies the specifications and updates the proofs to match a change made to the C code. When setting a TCB's flags the invocation now returns the new flag state. As part of this the type of the flags in the specifications had to be modified to be the same on all architectures, to match the C.

Test with https://github.com/seL4/seL4/pull/1325

### CODE REVIEW

File: proof/refine/AARCH64/Tcb_R.thy [hunk 1]
```diff
@@ -1695,14 +1709,39 @@ lemma word_to_tcb_flags_union:
...
+  apply (frule ex_tcbFlagToWord)
+  apply clarsimp
+  apply (rule_tac x=flag in exI)
+  apply (clarsimp simp: nth_is_and_neq_0 word_bw_comms)
+  apply fastforce
+  done
+
+lemma word_or_le_mask:
+  "\<lbrakk>a \<le> mask n; b \<le> mask n\<rbrakk> \<Longrightarrow> (a :: 'a :: len word) || b \<le> mask n"
+  by (metis (no_types, lifting) le_or_mask order_trans_rules(24) word_bool_le_funs(21) word_bw_assocs(2) word_bw_comms(2) word_bw_same(2))
```
Comment (lsf37) [inline proof/refine/AARCH64/Tcb_R.thy]: Please move to Word_Lib (one of the _Internals theories as staging area)

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -1706,13 +1719,39 @@ lemma word_to_tcb_flags_union:
...
+  apply (frule ex_tcbFlagToWord)
+  apply clarsimp
+  apply (rule_tac x=flag in exI)
+  apply (clarsimp simp: nth_is_and_neq_0 word_bw_comms)
+  apply fastforce
+  done
+
+lemma word_or_le_mask:
+  "\<lbrakk>a \<le> mask n; b \<le> mask n\<rbrakk> \<Longrightarrow> (a :: 'a :: len word) || b \<le> mask n"
+  by (metis (no_types, lifting) le_or_mask order_trans_rules(24) word_bool_le_funs(21) word_bw_assocs(2) word_bw_comms(2) word_bw_same(2))
```
Comment (lsf37) [inline proof/refine/ARM/Tcb_R.thy]: (obsolete when the other instance is moved)

File: proof/refine/ARM_HYP/Tcb_R.thy [hunk 3]
```diff
@@ -1711,13 +1724,39 @@ lemma word_to_tcb_flags_union:
...
+  apply (frule ex_tcbFlagToWord)
+  apply clarsimp
+  apply (rule_tac x=flag in exI)
+  apply (clarsimp simp: nth_is_and_neq_0 word_bw_comms)
+  apply fastforce
+  done
+
+lemma word_or_le_mask:
+  "\<lbrakk>a \<le> mask n; b \<le> mask n\<rbrakk> \<Longrightarrow> (a :: 'a :: len word) || b \<le> mask n"
+  by (metis (no_types, lifting) le_or_mask order_trans_rules(24) word_bool_le_funs(21) word_bw_assocs(2) word_bw_comms(2) word_bw_same(2))
```
Comment (lsf37) [inline proof/refine/ARM_HYP/Tcb_R.thy]: (for removal)

File: proof/refine/RISCV64/Tcb_R.thy [hunk 4]
```diff
@@ -1687,13 +1700,39 @@ lemma word_to_tcb_flags_union:
...
+  apply (frule ex_tcbFlagToWord)
+  apply clarsimp
+  apply (rule_tac x=flag in exI)
+  apply (clarsimp simp: nth_is_and_neq_0 word_bw_comms)
+  apply fastforce
+  done
+
+lemma word_or_le_mask:
+  "\<lbrakk>a \<le> mask n; b \<le> mask n\<rbrakk> \<Longrightarrow> (a :: 'a :: len word) || b \<le> mask n"
+  by (metis (no_types, lifting) le_or_mask order_trans_rules(24) word_bool_le_funs(21) word_bw_assocs(2) word_bw_comms(2) word_bw_same(2))
```
Comment (lsf37) [inline proof/refine/RISCV64/Tcb_R.thy]: (for removal)

File: proof/refine/X64/Tcb_R.thy [hunk 5]
```diff
@@ -1719,14 +1733,39 @@ lemma word_to_tcb_flags_union:
...
+  apply (frule ex_tcbFlagToWord)
+  apply clarsimp
+  apply (rule_tac x=flag in exI)
+  apply (clarsimp simp: nth_is_and_neq_0 word_bw_comms)
+  apply fastforce
+  done
+
+lemma word_or_le_mask:
+  "\<lbrakk>a \<le> mask n; b \<le> mask n\<rbrakk> \<Longrightarrow> (a :: 'a :: len word) || b \<le> mask n"
+  by (metis (no_types, lifting) le_or_mask order_trans_rules(24) word_bool_le_funs(21) word_bw_assocs(2) word_bw_comms(2) word_bw_same(2))
```
Comment (lsf37) [inline proof/refine/X64/Tcb_R.thy]: (and one more)

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 6]
```diff
@@ -501,6 +501,9 @@ Various operations on the free index of an Untyped cap.
 
 > data TcbFlag = FpuDisabled
 
+> numFlags :: Int
+> numFlags = 1
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Structures.lhs]: this is a confusing name; given that it's called TcbFlag above it should be `numTcbFlags`

File: proof/crefine/X64/Tcb_C.thy [hunk 7]
```diff
@@ -4512,39 +4512,104 @@ lemma scast_seL4_TCBFlag_fpuDisabled[simp]:
   "scast seL4_TCBFlag_fpuDisabled = tcbFlagToWord FpuDisabled"
   by (clarsimp simp: seL4_TCBFlag_fpuDisabled_def tcbFlagToWord_def)
 
+lemma scast_seL4_TCBFlag_MASK_numFlags[simp]:
+  "scast seL4_TCBFlag_MASK = mask numFlags"
+  by (clarsimp simp: seL4_TCBFlag_MASK_def numFlags_def)
+
+\<comment> \<open>FIXME: move\<close>
```
Comment (Xaphiosis) [inline proof/crefine/X64/Tcb_C.thy]: Please prefer `(* *)` comments for FIXMEs, for consistency.
Also, is this forgotten in this PR or to be done in a future PR?

File: proof/refine/X64/Tcb_R.thy [hunk 8]
```diff
@@ -1928,19 +1984,31 @@ lemma setTLSBase_invs'[wp]:
...
+crunch postSetFlags
   for invs'[wp]: invs'
   (ignore: threadSet)
 
 lemma invokeSetFlags_invs'[wp]:
   "\<lbrace>invs' and tcb_inv_wf' (tcbinvocation.SetFlags tcb clears' sets')\<rbrace>
    invokeTCB (tcbinvocation.SetFlags tcb clears' sets')
    \<lbrace>\<lambda>rv. invs'\<rbrace>"
-  by (wpsimp simp: invokeTCB_def)
+  apply (clarsimp simp: invokeTCB_def invokeSetFlags_def)
```
Comment (Xaphiosis) [inline proof/refine/X64/Tcb_R.thy]: suggest unfolding

File: proof/refine/X64/Tcb_R.thy [hunk 9]
```diff
@@ -1800,6 +1844,15 @@ where
 | "tcb_inv_wf' (tcbinvocation.SetFlags ref clears sets)
              = (tcb_at' ref and ex_nonz_cap_to' ref)"
 
+lemma invokeSetFlags_helper:
+  "flags = word_to_tcb_flags flags' \<Longrightarrow>
+     corres (=) \<top> (K (flags' \<le> mask numFlags))
+       (return [tcb_flags_to_word (flags - word_to_tcb_flags clears' \<union> word_to_tcb_flags sets')])
+       (return [flags' && ~~ clears' || sets' && mask numFlags])"
```
Comment (Xaphiosis) [inline proof/refine/X64/Tcb_R.thy]: incorrect indentation on `corres`

File: proof/refine/X64/Tcb_R.thy [hunk 10]
```diff
@@ -1707,6 +1708,15 @@ lemma tcbFlagToWord_bit:
   "\<exists>n. tcbFlagToWord flag = bit n"
   by (auto simp: tcbFlagToWord_def split: tcb_flag.splits simp del: bit_def)
 
+lemma tcbFlagToWord_le_mask_numFlags:
+  "tcbFlagToWord flag \<le> mask numFlags"
+  by (auto simp: tcbFlagToWord_def numFlags_def split: tcb_flag.splits)
+
+\<comment> \<open>This will probably be much harder if there are more flags\<close>
```
Comment (Xaphiosis) [inline proof/refine/X64/Tcb_R.thy]: um, not sure what this comment helps with

File: proof/refine/ARM_HYP/Tcb_R.thy [hunk 11]
```diff
@@ -1920,19 +1976,31 @@ lemma setTLSBase_invs'[wp]:
...
+  "\<lbrace>invs' and K (\<forall>flags. flags \<le> mask numFlags \<longrightarrow> f flags \<le> mask numFlags)\<rbrace>
+   threadSet (tcbFlags_update f) t
+   \<lbrace>\<lambda>_. invs'\<rbrace>"
+  by (rule hoare_gen_asm) (wpsimp wp: threadSet_invs_trivial)
+
+lemma setFlags_invs'[wp]:
+  "\<lbrace>invs' and K (flags \<le> mask numFlags)\<rbrace>
+   setFlags t flags
+   \<lbrace>\<lambda>_. invs'\<rbrace>"
+  by (wpsimp simp: setFlags_def wp: threadSet_flags_invs')
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Tcb_R.thy:1927]: I'm curious why this requires the precondition... from discussions, it seemed that extra flags get ignored. Is this a constraint resulting from an update to TCB validity? I understand needing the precondition for [c]corres, but confused why for valid.

File: proof/refine/ARM_HYP/Tcb_R.thy [hunk 12]
```diff
@@ -1791,6 +1835,15 @@ where
 | "tcb_inv_wf' (tcbinvocation.SetFlags ref clears sets)
              = (tcb_at' ref and ex_nonz_cap_to' ref)"
 
+lemma invokeSetFlags_helper:
+  "flags = word_to_tcb_flags flags' \<Longrightarrow>
+     corres (=) \<top> (K (flags' \<le> mask numFlags))
+       (return [tcb_flags_to_word (flags - word_to_tcb_flags clears' \<union> word_to_tcb_flags sets')])
+       (return [flags' && ~~ clears' || sets' && mask numFlags])"
+  apply clarsimp
```
Comment (Xaphiosis) [inline proof/refine/ARM_HYP/Tcb_R.thy]: is the clarsimp here necessary?

File: proof/crefine/X64/Tcb_C.thy [hunk 13]
```diff
@@ -4512,39 +4512,104 @@ lemma scast_seL4_TCBFlag_fpuDisabled[simp]:
...
+               apply (simp only: setMessageInfo_def bind_assoc)
+               apply ctac
+                 apply simp
+                 apply (ctac add: setRegister_ccorres)
+                   apply (ctac add: setThreadState_ccorres)
+                  apply wpsimp
+                 apply (vcg exspec=setRegister_modifies)
+                apply wpsimp
+               apply clarsimp
+               apply (vcg)
```
Comment (Xaphiosis) [inline proof/crefine/X64/Tcb_C.thy]: parentheses

File: proof/crefine/ARM_HYP/Tcb_C.thy [hunk 14]
```diff
@@ -4509,35 +4509,90 @@ lemma decodeSetTLSBase_ccorres:
...
+  apply (clarsimp simp: invs_no_0_obj' tcb_at_invs' invs_valid_objs' invs_sch_act_wf'
+                        rf_sr_ksCurThread msgRegisters_unfold
+                        seL4_MessageInfo_lift_def message_info_to_H_def
+                        obj_at'_def typ_heap_simps' ctcb_relation_def)
+  by (auto dest: invs_valid_objs' elim!: valid_objsE'
+           simp: ARM_HYP.badgeRegister_def badgeRegister_def Kernel_C.badgeRegister_def
+                 fromPAddr_def ThreadState_defs Kernel_C.R0_def Kernel_C.R1_def projectKOs
+                 pred_tcb_at'_def obj_at'_def ct_in_state'_def typ_heap_simps' mask_2pm1
+                 valid_obj'_def valid_tcb'_def word_or_le_mask[simplified mask_2pm1] word_and_le
+                 word_bool_le_funs)
```
Comment (Xaphiosis) [inline proof/crefine/ARM_HYP/Tcb_C.thy]: there is a group of lemmas that represent all of the C register definitions, which might make more sense than adding R0_def, R1_def, etc, as those are also arch-dependant.

File: proof/crefine/ARM_HYP/Tcb_C.thy [hunk 15]
```diff
@@ -4509,35 +4509,90 @@ lemma decodeSetTLSBase_ccorres:
   apply (auto simp: unat_eq_0 le_max_word_ucast_id)+
   done
 
+lemma scast_seL4_TCBFlag_MASK_numFlags[simp]:
+  "scast seL4_TCBFlag_MASK = mask numFlags"
+  by (clarsimp simp: seL4_TCBFlag_MASK_def numFlags_def)
```
Comment (Xaphiosis) [inline proof/crefine/ARM_HYP/Tcb_C.thy]: this is probably fine for now, but is skirting close to being an interface lemma for future arch/config links to the C, which might make Wellformed_C a better place for it... but maybe we should leave that until we have more flags

File: proof/crefine/ARM/VSpace_C.thy [hunk 16]
```diff
@@ -1713,6 +1713,41 @@ lemma setRegister_ccorres:
...
   done
 
+lemma msgRegisters_ccorres:
+  "n < unat n_msgRegisters \<Longrightarrow>
+  register_from_H (ARM_H.msgRegisters ! n) = (index kernel_all_substitute.msgRegisters n)"
+  apply (simp add: kernel_all_substitute.msgRegisters_def msgRegisters_unfold fupdate_def)
+  apply (simp add: Arrays.update_def n_msgRegisters_def nth_Cons' split: if_split)
+  done
+
+(* usually when we call setMR directly, we mean to only set a registers, which will
```
Comment (Xaphiosis) [inline proof/crefine/ARM/VSpace_C.thy]: only set a registers? not sure what this means... only set a single register?

**Review by Xaphiosis — APPROVED** [review]
Looks like solid progress. Minor nitpicks only (one annoying one with `numFlags`).

For commit messages:
* `by the types used in the abstract` : `abstract spec`?
* `In particular, this makes` -> `Make`

File: proof/refine/AARCH64/Tcb_R.thy (hunk 1 above)
Comment (corlewis) [reply proof/refine/AARCH64/Tcb_R.thy]: This ended up not being needed and has been removed.

File: spec/haskell/src/SEL4/Object/Structures.lhs (hunk 6 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/Structures.lhs]: This ended up not being needed and has been removed.

File: proof/refine/X64/Tcb_R.thy (hunk 10 above)
Comment (corlewis) [reply proof/refine/X64/Tcb_R.thy]: I think I originally put this here because I wasn't sure if it was the right approach or if it only makes sense when we have just one flag. I'm a bit more confident in it now and agree that the comment doesn't help much, so I've removed it.

File: proof/refine/ARM_HYP/Tcb_R.thy (hunk 11 above)
Comment (corlewis) [reply proof/refine/ARM_HYP/Tcb_R.thy:1927]: `setFlags` is just a wrapper around `threadSet`, the flags are masked earlier in `invokeSetFlags` and then the knowledge that they have been masked is passed via that precondition. It's needed because of the update to TCB validity like you said, we now need to know that the flags in each TCB are within the appropriate subset for the specific configuration.

File: proof/refine/ARM_HYP/Tcb_R.thy (hunk 12 above)
Comment (corlewis) [reply proof/refine/ARM_HYP/Tcb_R.thy]: I think it might have been necessary at one point because the word proof was being annoyingly fiddly but it isn't anymore, so I've folded it into one fastforce.

File: proof/crefine/ARM_HYP/Tcb_C.thy (hunk 14 above)
Comment (corlewis) [reply proof/crefine/ARM_HYP/Tcb_C.thy]: Oh nice, I don't think I knew about `C_register_defs`. It's definitely a lot nicer to use that, it was a pain to find the right register names when copying this proof to each architecture and that would have been trivial with this.

There's still more improvements we could make here, it looks like `RISCV64` and `AARCH64` have made some improvements by adding additional register definitions that would be good to backport to the other architectures and there's lots more places we could be using `C_register_defs` throughout the proofs, but I think both of those are for other PRs.

File: proof/crefine/ARM/VSpace_C.thy (hunk 16 above)
Comment (corlewis) [reply proof/crefine/ARM/VSpace_C.thy]: I actually copied this from another architecture so wasn't sure of the original intention either but while looking at it now I found another version of this lemma on `ARM` in a later file, and that one had a better comment. No idea about what led to this situation in the past but I've updated all architectures to be consistent on this.

File: spec/haskell/src/SEL4/Object/Structures/AARCH64.hs [hunk 17]
```diff
@@ -70,7 +70,6 @@ atcbContextSet uc atcb = atcb { atcbContext = uc }
 atcbContextGet :: ArchTCB -> UserContext
 atcbContextGet = atcbContext
 
-
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Structures/AARCH64.hs:78]: change seems not related to commit

File: spec/haskell/src/SEL4/Object/Structures.lhs [hunk 18]
```diff
@@ -516,3 +513,6 @@ Sets of TCB flags are bitwise OR'd and represented as a word.
 
 > isFlagSet :: TcbFlag -> TcbFlags -> Bool
 > isFlagSet flag flags = tcbFlagToWord flag .&. flags /= 0
+
+> tcbFlagMask :: Word
+> tcbFlagMask = if config_HAVE_FPU then tcbFlagToWord FpuDisabled else 0
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Object/Structures.lhs:518]: if we were writing code only, I'd suggest noFlag here instead of 0. Incidentally, the 0x0 above can be 0, but I'm fine to leave both.

File: spec/haskell/src/SEL4/Machine/Hardware.lhs [hunk 19]
```diff
@@ -216,3 +216,9 @@ The constant "nullPointer" is a physical pointer guaranteed to be invalid.
 > nullPointer :: PPtr a
 > nullPointer = PPtr 0
 
+\subsection{Config parameters}
+
+Whether FPUs are enabled or not.
```
Comment (Xaphiosis) [inline spec/haskell/src/SEL4/Machine/Hardware.lhs]: "FPUs are" or "the FPU is"?

File: spec/haskell/src/SEL4/Object/Structures/AARCH64.hs (hunk 17 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Object/Structures/AARCH64.hs:78]: I think this was to make the architectures consistent, and should be a bit less noisy once squashed into the earlier commit.

File: spec/haskell/src/SEL4/Machine/Hardware.lhs (hunk 19 above)
Comment (corlewis) [reply spec/haskell/src/SEL4/Machine/Hardware.lhs]: I think I was conflating "FPUs are supported" and "the FPU is enabled". I'll change it to the latter.

File: spec/abstract/Structures_A.thy [hunk 20]
```diff
@@ -373,10 +373,10 @@ type_synonym domain = word8
 type_synonym tcb_flags = "tcb_flag set"
 
 definition word_to_tcb_flags :: "machine_word \<Rightarrow> tcb_flags" where
-  "word_to_tcb_flags w \<equiv> {flag. tcbFlagToWord flag && w \<noteq> 0}"
+  "word_to_tcb_flags w \<equiv> {flag. tcbFlagToWord flag && w && tcbFlagMask \<noteq> 0}"
 
 definition tcb_flags_to_word :: "tcb_flags \<Rightarrow> machine_word" where
-  "tcb_flags_to_word flags \<equiv> THE w. word_to_tcb_flags w = flags \<and> w \<le> mask numFlags"
+  "tcb_flags_to_word flags \<equiv> THE w. word_to_tcb_flags w = flags \<and> w && ~~ tcbFlagMask = 0"
```
Comment (Xaphiosis) [inline spec/abstract/Structures_A.thy:382]: These feel slightly unusual. Let me think through them:

Converting a word to flags is the set of all flags that when ANDed with w and the flag mask, we get a non-zero result. I think this was a bit hard to parse because I'd put `w` first. I'm also a bit confused why we need the mask, because `tcbFlagToWord` should not return anything outside of `tcbFlagMask`, no?

Converting flags to a word... again, given that you've defined it via the inverse of `word_to_tcb_flags`, doesn't this mean that checking the word against the flag mask here is unnecessary for the conversion? I understand if you need it somehow in general to ensure the validity of words which represent flags in the TCB, but it's definitely hard to see what's going on from just reading this. At minimum, it would require a comment to explain.

File: proof/crefine/RISCV64/Wellformed_C.thy [hunk 21]
```diff
@@ -486,6 +486,22 @@ value_type irq_array_size = "Suc (unat Kernel_C.maxIRQ)"
...
 
+text \<open>TCBFlags interface\<close>
+
+lemma scast_seL4_TCBFlag_simps[simp]:
+  "scast seL4_TCBFlag_NoFlag = 0"
+  "scast seL4_TCBFlag_fpuDisabled = tcbFlagToWord FpuDisabled"
+  by (clarsimp simp: seL4_TCBFlag_fpuDisabled_def seL4_TCBFlag_NoFlag_def tcbFlagToWord_def)+
+
+(* config_HAVE_FPU is unfolded because the C is defined with an ifdef, and so we just see the final
+   value instead of how it is constructed. *)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Wellformed_C.thy]: can we just basically have this be a bit more terse+precise? I'm not sure what this comment helps really. Are you trying to say that config_HAVE_FPU matches up with the implicit enum value from the preprocessor?

File: proof/crefine/RISCV64/Wellformed_C.thy [hunk 22]
```diff
@@ -486,6 +486,22 @@ value_type irq_array_size = "Suc (unat Kernel_C.maxIRQ)"
 (* Input abbreviations for API object types *)
 (* disambiguates names *)
 
+text \<open>TCBFlags interface\<close>
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Wellformed_C.thy:489]: something seems wrong here. not only should there be a new line above here like we did with the other ones (well except maxIRQ, sigh), the comment above is talking about input abbreviations for API object types, which this is not. Pasted into wrong spot?

File: proof/crefine/RISCV64/Wellformed_C.thy [hunk 23]
```diff
@@ -486,6 +486,22 @@ value_type irq_array_size = "Suc (unat Kernel_C.maxIRQ)"
...
+  "scast seL4_TCBFlag_fpuDisabled = tcbFlagToWord FpuDisabled"
+  by (clarsimp simp: seL4_TCBFlag_fpuDisabled_def seL4_TCBFlag_NoFlag_def tcbFlagToWord_def)+
+
+(* config_HAVE_FPU is unfolded because the C is defined with an ifdef, and so we just see the final
+   value instead of how it is constructed. *)
+lemma scast_seL4_TCBFlag_MASK_tcbFlagMask[simp]:
+  "scast seL4_TCBFlag_MASK = tcbFlagMask"
+  by (clarsimp simp: seL4_TCBFlag_MASK_def tcbFlagMask_def Kernel_Config.config_HAVE_FPU_def tcbFlagToWord_def)
+
+ (* end of Kernel_Config interface section *)
```
Comment (Xaphiosis) [inline proof/crefine/RISCV64/Wellformed_C.thy:501]: I think previously seeing "Input abbreviations for API object types" indicated the end of the Kernel_Config section. The problem is that there isn't a *start* of the Kernel_Config interface section per se, it starts with "Domains", so not sure what I think of this comment now

File: spec/abstract/Structures_A.thy (hunk 20 above)
Comment (corlewis) [reply spec/abstract/Structures_A.thy:382]: The `tcb_flags` type can be larger than the flags that we accept on a specific architecture. The `tcbFlagMask`  in `word_to_tcb_flags` is so that we ignore any such flags (for example, `FpuDisabled` when the FPU is not enabled).

The mask is then also needed in `tcb_flags_to_word` to make it so that there is a unique word for it to return, since otherwise spurious bits could be set.

I'm happy to reorder `word_to_tcb_flags` so that `w` is first but I've been looking and making changes to these definitions for too long and can't really think of a helpful comment, that isn't just restating the definition. Would it help to add something saying that we don't care about actually computing `tcb_flags_to_word` and that it is defined as an inverse of `word_to_tcb_flags` to try and make the proofs easier?

File: proof/crefine/X64/Wellformed_C.thy [hunk 24]
```diff
@@ -526,6 +526,22 @@ declare Kernel_C.maxIRQ_def[code]
...
+  "scast seL4_TCBFlag_fpuDisabled = tcbFlagToWord FpuDisabled"
+  by (clarsimp simp: seL4_TCBFlag_fpuDisabled_def seL4_TCBFlag_NoFlag_def tcbFlagToWord_def)+
+
+(* config_HAVE_FPU is unfolded because the C is defined with an ifdef, and so we just see the final
+   value instead of how it is constructed. *)
+lemma scast_seL4_TCBFlag_MASK_tcbFlagMask[simp]:
+  "scast seL4_TCBFlag_MASK = tcbFlagMask"
+  by (clarsimp simp: seL4_TCBFlag_MASK_def tcbFlagMask_def Kernel_Config.config_HAVE_FPU_def tcbFlagToWord_def)
+
+(* end of Kernel_Config interface section *)
```
Comment (Xaphiosis) [inline proof/crefine/X64/Wellformed_C.thy:544]: see comments on other arches, but in this case the input abbreviations comment is in the right place

File: proof/refine/AARCH64/Schedule_R.thy [hunk 25]
```diff
@@ -249,9 +249,23 @@ lemma switchLocalFpuOwner_corres[corres]:
    apply (auto simp: current_fpu_owner_Some_tcb_at fpuOwner_asrt_cross)
   done
 
+(*FIXME FPU: move tcbFlag lemmas*)
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Schedule_R.thy]: FIXME

File: proof/refine/AARCH64/Schedule_R.thy [hunk 26]
```diff
@@ -249,9 +249,23 @@ lemma switchLocalFpuOwner_corres[corres]:
...
+lemma tcbFlagToWord_bit:
+  "\<exists>n<64. tcbFlagToWord flag = bit n"
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Schedule_R.thy]: is this machine_word_len, or specifically 64?

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 22 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Wellformed_C.thy:489]: You're right, pasted into the wrong spot, it should be before that comment. I'll add the extra line, I think I might have even had it originally before removing it to be consistent with `maxIRQ`.

File: proof/refine/AARCH64/Schedule_R.thy [hunk 27]
```diff
@@ -249,9 +249,23 @@ lemma switchLocalFpuOwner_corres[corres]:
...
+  by (auto simp: tcbFlagToWord_def ex_nat_less_eq split: tcb_flag.splits simp del: bit_def)
+
+lemma FpuDisabled_in_tcbFlagMask[simp]:
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Schedule_R.thy]: not sure what to do in such naming cases (capital starting letter): @lsf37 ?

File: proof/refine/AARCH64/Schedule_R.thy [hunk 28]
```diff
@@ -249,9 +249,23 @@ lemma switchLocalFpuOwner_corres[corres]:
...
+  "FpuDisabled \<in> word_to_tcb_flags tcbFlagMask"
+  by (clarsimp simp: word_to_tcb_flags_def tcbFlagToWord_def tcbFlagMask_def Kernel_Config.config_HAVE_FPU_def)
+
+lemma tcbFlagToWord_tcbFlagMask:
+  "flag \<in> word_to_tcb_flags tcbFlagMask \<Longrightarrow> tcbFlagToWord flag && tcbFlagMask = tcbFlagToWord flag"
+  by (cut_tac flag=flag in tcbFlagToWord_bit) (fastforce simp: word_to_tcb_flags_def word_eq_iff)
+
 lemma isFlagSet_set:
```
Comment (Xaphiosis) [inline proof/refine/AARCH64/Schedule_R.thy]: not the most illuminating name, but I guess we're not going to use flags for a lot more

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 23 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Wellformed_C.thy:501]: The `end of Kernel_Config interface section` comment came from `AARCH64`, which is where I made this change first. I'll do another pass and try to make the architectures a bit more consistent.

File: proof/refine/AARCH64/Schedule_R.thy (hunk 26 above)
Comment (corlewis) [reply proof/refine/AARCH64/Schedule_R.thy]: I'll check but I think you're right and that it should be `machine_word_len`.

File: proof/refine/X64/Schedule_R.thy [hunk 29]
```diff
@@ -150,9 +150,23 @@ lemma switchLocalFpuOwner_corres[corres]:
    apply (auto simp: current_fpu_owner_Some_tcb_at fpuOwner_asrt_cross)
   done
 
+(*FIXME FPU: move tcbFlag lemmas*)
```
Comment (Xaphiosis) [inline proof/refine/X64/Schedule_R.thy]: FIXME (all arches?)

File: proof/refine/AARCH64/Schedule_R.thy (hunk 25 above)
Comment (corlewis) [reply proof/refine/AARCH64/Schedule_R.thy]: This isn't the right place for these but there's not really anywhere obvious to me to move them to. Any objections to leaving them here for now until there's more flags and we actually have an idea of where these lemmas might be needed?

Comment (corlewis) [reply proof/refine/AARCH64/Schedule_R.thy]: I guess if we do leave them here then I should remove the FPU tag from the FIXME.

I'd also be happy with a suggestion for a location of course.

File: proof/refine/ARM_HYP/Tcb_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/Tcb_R.thy:1927]: Does adding a comment make sense?

File: proof/refine/X64/Tcb_R.thy [hunk 30]
```diff
@@ -1704,66 +1704,60 @@ crunch set_flags
...
+  "word_to_tcb_flags (flags && flags') = word_to_tcb_flags flags \<inter> word_to_tcb_flags flags'"
   apply (clarsimp simp: word_to_tcb_flags_def intro!: set_eqI)
   apply (cut_tac flag=x in tcbFlagToWord_bit)
-  apply (fastforce simp: word_eq_iff tcbFlagToWord_bit)
+  apply (fastforce simp: word_eq_iff)
   done
 
-lemma word_to_tcb_flags_union:
-  "word_to_tcb_flags (flags || flags') = word_to_tcb_flags flags \<union> word_to_tcb_flags flags'"
+lemmas word_to_tcb_flags_simps = word_to_tcb_flags_not word_to_tcb_flags_or word_to_tcb_flags_and
```
Comment (Xaphiosis) [inline proof/refine/X64/Tcb_R.thy]: reading through these a few times (once per arch), I keep thinking: are these properties arch-agnostic? maybe it'll have to be absorbed in arch-split if so, but it really looks like some kind of library that could even be spun out into its own little theory

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 21 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Wellformed_C.thy]: The main intention of the comment was to say that `config_HAVE_FPU` being unfolded is necessary and that we wont be able to match up the C and spec and split an `if` like we do in other cases. How about this?

```
(* config_HAVE_FPU has to be unfolded here to match the implicit enum value from he preprocessor. *)
```

File: proof/refine/ARM_HYP/Tcb_R.thy (hunk 11 above)
Comment (corlewis) [reply proof/refine/ARM_HYP/Tcb_R.thy:1927]: I don't think so, I think it makes more sense in context when you can see that `setFlags` is just a wrapper around `threadSet`, and that this lemma is just a simplification of `threadSet_flags_invs'`. Most other `threadSet` lemmas have a similar precondition constraining the value being set so that TCB validity is maintained.

File: spec/haskell/src/SEL4/Object/Structures/AARCH64.hs (hunk 17 above)
Comment (Xaphiosis) [reply spec/haskell/src/SEL4/Object/Structures/AARCH64.hs:78]: oki

File: proof/refine/AARCH64/Schedule_R.thy (hunk 28 above)
Comment (corlewis) [reply proof/refine/AARCH64/Schedule_R.thy]: I guess it could be `isFlagSet_in_word_to_tcb_flags` if we want more illumination?

File: proof/refine/X64/Tcb_R.thy (hunk 30 above)
Comment (corlewis) [reply proof/refine/X64/Tcb_R.thy]: You're right, these properties are arch-agnostic now. The proofs for them weren't originally, and them being so now is one of the things giving me some confidence that they'll be able to be extended for additional flags in the future.

I'd been thinking along the lines of them being absorbed in arch-split. The exact form of some of these lemmas is pretty specific to how they're used and it can be annoyingly fiddly to get the simplifier to apply some of them due to fighting with associativity and commutativity, so spinning them out on their own would take a bit of work to do nicely. That might be something to come back to but I'd prefer not as part of this PR.

File: spec/abstract/Structures_A.thy (hunk 20 above)
Comment (Xaphiosis) [reply spec/abstract/Structures_A.thy:382]: Thanks, that's what I was missing here: the set of flags can be larger than the set of configured flags. `tcbFlagToWord` deals with flags, `tcbFlagMask` with configured flags. I think I would appreciate commentary to that end that above the first one, e.g.

```
text <
  The set of TCB flags may be larger than the set of configured flags (e.g. FpuDisabled is only
  used when FPU is configured), hence we only convert flags in `tcbFlagMask`. >
```

Cheers for `w` first.

For the `tcb_flags_to_word`, I think it's evident you only needed an inverse here, and the above commentary on flags vs configured flags is sufficient to clear things up.

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 23 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Wellformed_C.thy:501]: Ah crap, fine to leave it in then. Happy for you to make it more consistent between arches though.

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 21 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Wellformed_C.thy]: That's more helpful (typo "he" -> "the"), that'll work.

Question is, how is that different from the other ones in this section though? Next time we have a Kernel_Config it's probably going to be doing the same thing, as with numDomains which uses a similar trick (an enum value set from preprocessor). Hmm. Maybe @lsf37 can weigh in, but I think your comment settles this specific instance.

File: proof/refine/ARM_HYP/Tcb_R.thy (hunk 11 above)
Comment (Xaphiosis) [reply proof/refine/ARM_HYP/Tcb_R.thy:1927]: I'm convinced, fine to leave as is.

File: proof/refine/AARCH64/Schedule_R.thy (hunk 28 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Schedule_R.thy]: I guess it does encode the relationship between them, so I'll buy that.

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 22 above)
Comment (Xaphiosis) [reply proof/crefine/RISCV64/Wellformed_C.thy:489]: I think I'd prefer it you added a line before maxIRQ part for consistency. We must've missed that before during reviewing.

File: proof/refine/AARCH64/Schedule_R.thy (hunk 25 above)
Comment (Xaphiosis) [reply proof/refine/AARCH64/Schedule_R.thy]: If we leave it, then yes to removing FPU flag from FIXME.
Generally, I'm not opposed to having the flag lemmas in Tcb_R for the moment. Here we are in Schedule_R, and you felt like these don't belong here. Maybe if you can expand your thought on why they don't belong, a place will pop up?

In CRefine, we often put these kinds of things into SR_Lemmas, I guess Invariants_H is one possible place, StateRelation another. Or if it's nearly all generic (or with identical derivations in Arch), then having a `TcbFlags_R.thy` theory might be warranted. I'm not sure myself, having not worked with these lemmas closely.

File: proof/refine/X64/Tcb_R.thy (hunk 30 above)
Comment (Xaphiosis) [reply proof/refine/X64/Tcb_R.thy]: While arch-split isn't magic, if you put these outside of the Arch locale (or are they already?) I can pick them up when I get there, and at least the redundancy between arches should disappear.

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 23 above)
Comment (corlewis) [reply proof/crefine/RISCV64/Wellformed_C.thy:501]: While I'm here, should I add an explicit `start of Kernel_Config interface section` comment instead of the implicit start with "Domains"?

Comment (Xaphiosis) [reply proof/crefine/RISCV64/Wellformed_C.thy:501]: Maybe not in this PR. I think having an official section would warrant a proper comment to set it up. As is stands, people can look for the end of it and add their stuff above

File: proof/refine/AARCH64/Schedule_R.thy (hunk 25 above)
Comment (corlewis) [reply proof/refine/AARCH64/Schedule_R.thy]: I ended up moving these lemmas to a new arch-generic theory. Have a look and let me know if what I've done makes sense from an arch-split perspective.

File: proof/crefine/RISCV64/Wellformed_C.thy (hunk 21 above)
Comment (lsf37) [reply proof/crefine/RISCV64/Wellformed_C.thy]: No issue with the revised comment from my side. Likely good to have it when I ever get to doing a more generic FPU config thing.

File: proof/refine/AARCH64/Schedule_R.thy (hunk 27 above)
Comment (lsf37) [reply proof/refine/AARCH64/Schedule_R.thy]: I was about to write that my gut feeling tends towards lower case, but looking at it for longer, if it was `None` we would not turn it into `none` if we wanted to refer to the constructor. So I think we should leave it.

File: proof/refine/X64/Schedule_R.thy [hunk 31]
```diff
@@ -150,30 +150,12 @@ lemma switchLocalFpuOwner_corres[corres]:
...
-  apply (drule tcbFlagToWord_tcbFlagMask)
-  by (clarsimp simp: isFlagSet_def word_to_tcb_flags_def word_bw_lcs intro!: eq_eqI word_bw_comms)
-
 lemma lazyFpuRestore_corres[corres]:
   "corres dc (pspace_aligned and pspace_distinct and valid_cur_fpu and tcb_at t) \<top>
              (lazy_fpu_restore t) (lazyFpuRestore t)"
   unfolding lazy_fpu_restore_def lazyFpuRestore_def
   by (corres corres: threadGet_corres[where r="\<lambda>flags flags'. flags = word_to_tcb_flags flags'"]
-          term_simp: tcb_relation_def isFlagSet_set
+          term_simp: tcb_relation_def Kernel_Config.config_HAVE_FPU_def
```
Comment (Xaphiosis) [inline proof/refine/X64/Schedule_R.thy:160]: is this future-proof? we're unfolding a kernel config; I guess the function only exists when there is an FPU?

File: proof/refine/TcbFlags_R.thy [hunk 32]
```diff
@@ -0,0 +1,96 @@
...
+  apply (frule ex_tcbFlagToWord)
+  apply clarsimp
+  apply (rule_tac x=flag in exI)
+  apply (clarsimp simp: not_nth_is_and_neq_0[symmetric] word_bw_assocs[symmetric] word_bw_comms)
+  done
+
+lemma isFlagSet_in_word_to_tcb_flags[simp]:
+  "flag \<in> word_to_tcb_flags tcbFlagMask \<Longrightarrow> isFlagSet flag flags = (flag \<in> word_to_tcb_flags flags)"
+  apply (drule tcbFlagToWord_tcbFlagMask)
+  by (clarsimp simp: isFlagSet_def word_to_tcb_flags_def word_bw_lcs intro!: eq_eqI word_bw_comms)
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy]: two line proof -> by

File: proof/refine/TcbFlags_R.thy [hunk 33]
```diff
@@ -0,0 +1,96 @@
...
+
+lemma word_to_tcb_flags_tcbFlagMask[simp]:
+  "word_to_tcb_flags flags \<inter> word_to_tcb_flags tcbFlagMask = word_to_tcb_flags flags"
+  apply (clarsimp simp: word_to_tcb_flags_def intro!: set_eqI)
+  apply (cut_tac flag=x in tcbFlagToWord_bit)
+  apply (fastforce simp: word_eq_iff)
+  done
+
+lemma not_nth_is_and_neq_0:
+  "(\<not> (x::'a::len word) !! n) = (x AND 2 ^ n = 0)"
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy]: why `neq_0`? surely it's `eq_0`?
also: WordLib candidate?

File: proof/refine/TcbFlags_R.thy [hunk 34]
```diff
@@ -0,0 +1,96 @@
...
+
+lemma ex_tcbFlagToWord:
+  "tcbFlagMask !! n \<Longrightarrow> \<exists>flag. tcbFlagToWord flag = bit n"
+  by (auto simp: tcbFlagToWord_def tcbFlagMask_def split: tcb_flag.splits if_splits)
+
+lemma tcbFlagToWord_tcbFlagMask:
+  "flag \<in> word_to_tcb_flags tcbFlagMask \<Longrightarrow> tcbFlagToWord flag && tcbFlagMask = tcbFlagToWord flag"
+  by (cut_tac flag=flag in tcbFlagToWord_bit) (fastforce simp: word_to_tcb_flags_def word_eq_iff)
+
+
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy:25]: intentional extra space?

File: proof/refine/TcbFlags_R.thy [hunk 35]
```diff
@@ -0,0 +1,96 @@
...
+(* Lemmas connecting how the design and abstract specifications represent TCB flags.
+   That is, bitwise with a word in the design spec and as a set in the abstract spec.
+*)
+
+theory TcbFlags_R
+imports BaseRefine.Include Move_R
+begin
+
+lemma tcbFlagToWord_bit:
+  "\<exists>n<word_bits. tcbFlagToWord flag = bit n"
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy:15]: ex_tcbFlagToWord_bit?

File: proof/refine/TcbFlags_R.thy [hunk 36]
```diff
@@ -0,0 +1,96 @@
+(*
+ * Copyright 2025, Proofcraft Pty Ltd
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+(* Lemmas connecting how the design and abstract specifications represent TCB flags.
+   That is, bitwise with a word in the design spec and as a set in the abstract spec.
+*)
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy]: suggest migrate end of comment to prev line

File: proof/refine/TcbFlags_R.thy [hunk 37]
```diff
@@ -0,0 +1,96 @@
...
+
+lemma tcbFlagToWord_bit:
+  "\<exists>n<word_bits. tcbFlagToWord flag = bit n"
+  by (auto simp: tcbFlagToWord_def ex_nat_less_eq word_bits_conv split: tcb_flag.splits simp del: bit_def)
+
+lemma ex_tcbFlagToWord:
+  "tcbFlagMask !! n \<Longrightarrow> \<exists>flag. tcbFlagToWord flag = bit n"
+  by (auto simp: tcbFlagToWord_def tcbFlagMask_def split: tcb_flag.splits if_splits)
+
+lemma tcbFlagToWord_tcbFlagMask:
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy]: tcbFlagToWord_and_tcbFlagMask ? I again forget what the naming policy is for idempotency rules... eq? id? idem? @lsf37 ?

File: proof/refine/InvariantsPre_H.thy [hunk 38]
```diff
@@ -15,6 +15,7 @@ imports
   "AInvs.ArchDetSchedSchedule_AI"
   "Lib.Heap_List"
   Move_R
+  TcbFlags_R
```
Comment (Xaphiosis) [inline proof/refine/InvariantsPre_H.thy:17]: Your TcbFlags_R already pulls in Move_R, making the Move_R above unnecessary.

File: proof/refine/TcbFlags_R.thy [hunk 39]
```diff
@@ -0,0 +1,96 @@
...
+ * Copyright 2025, Proofcraft Pty Ltd
+ *
+ * SPDX-License-Identifier: GPL-2.0-only
+ *)
+
+(* Lemmas connecting how the design and abstract specifications represent TCB flags.
+   That is, bitwise with a word in the design spec and as a set in the abstract spec.
+*)
+
+theory TcbFlags_R
```
Comment (Xaphiosis) [inline proof/refine/TcbFlags_R.thy:10]: This extraction into a separate generic theory looks good to me.

File: proof/refine/X64/Schedule_R.thy (hunk 31 above)
Comment (corlewis) [reply proof/refine/X64/Schedule_R.thy:160]: Yeah, currently this only exists when there is an FPU. When we make the FPU properly configurable for the proofs then I think it would be a precondition for this lemma and we wouldn't be unfolding it. Should I add a comment saying that?

File: proof/refine/TcbFlags_R.thy (hunk 33 above)
Comment (corlewis) [reply proof/refine/TcbFlags_R.thy]: Oh yeah, this lemma. It's a tweaked version of an existing lemma from `Word_Lib/More_Word.thy`
```
lemma nth_is_and_neq_0:
  "bit (x::'a::len word) n = (x AND 2 ^ n ≠ 0)"
  ```
Looking at it again, you're right that my version should be `eq_0`. What I'm less confident in is if it is generally useful or if I just needed it because I was giving up on fighting with these word proofs. Happy to move it if we do think that it's useful.

File: proof/refine/TcbFlags_R.thy (hunk 34 above)
Comment (corlewis) [reply proof/refine/TcbFlags_R.thy:25]: It's a remnant of when I was thinking that I would give this file sections. That first part was going to be for lemmas specifically about `tcbFlagToWord` while the next was for `word_to_tcb_flags`. I don't think that there's enough going on here for that to be needed so I'll remove it.

File: proof/refine/X64/Schedule_R.thy (hunk 31 above)
Comment (Xaphiosis) [reply proof/refine/X64/Schedule_R.thy:160]: Yeah, something brief to that effect would be good.

File: proof/refine/TcbFlags_R.thy (hunk 33 above)
Comment (Xaphiosis) [reply proof/refine/TcbFlags_R.thy]: It can probably go next to `nth_is_and_neq_0` then? Doesn't have to be in this PR, I think at this point I'm fine with a `(* FIXME move after nth_is_and_neq_0 *)` unless you feel like a lib update

File: proof/refine/TcbFlags_R.thy (hunk 37 above)
Comment (corlewis) [reply proof/refine/TcbFlags_R.thy]: Renamed to `tcbFlagToWord_and_tcbFlagMask_eq` as separately discussed.

File: proof/refine/TcbFlags_R.thy (hunk 33 above)
Comment (corlewis) [reply proof/refine/TcbFlags_R.thy]: I'll just move it now, I'm already making changes and it's not like adding it there will break anything.

**Comment by Xaphiosis** [comment]
All my comments appear to be addressed. Thank you!
